US07393848B2
A quantity of 0.13 g (1 mmole) of Benzo[d]isoxazol-6-ylamine is treated with 0.27 g (1 mmole) of 6,8-Dibromo-imidazo[1,2-a]pyrazine in acetonitrile with 3 eq. of K2CO3 at reflux for 16 hrs. The reaction mixture is cooled partitioned between ethyl acetate and water, the organic extracts are dried over anhydrous MgSO4 and evaporated in vacuo to afford Benzo[d]isoxazol-6-yl-(6-bromo-imidazo[1,2-a]pyrazin-8-yl)-amine.

reactant | Benzo[d]isoxazol-6-ylamine | 1 mmole, 0.13 g | O1N=CC2=C1C=C(C=C2)N | C7H6N2O
reactant | 6,8-Dibromo-imidazo[1,2-a]pyrazine | 1 mmole, 0.27 g | BrC=1N=C(C=2N(C1)C=CN2)Br | C6H3Br2N3
reactant | K2CO3 | 3 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | Benzo[d]isoxazol-6-yl-(6-bromo-imidazo[1,2-a]pyrazin-8-yl)-amine | O1N=CC2=C1C=C(C=C2)NC=2C=1N(C=C(N2)Br)C=CN1 | C13H8BrN5O
